US07619116B2
7.1 g of trifluoroacetic anhydride are added to a suspension of 6.9 g of N-[(1S)-2-hydroxy-1-(4-methoxybenzyl)ethyl]-acetamide in 14 ml of methyl tert-butyl ether under an inert atmosphere. The medium is brought to 40° C. for 1 hour. 21 ml of heptane are added to the reaction medium. The product is filtered off after having cooled the suspension to −10° C. After drying, 8.2 g of (S)-2-acetylamino-3-(4-methoxy-phenyl)propyl trifluoroacetate are obtained.

reactant | trifluoroacetic anhydride | 7.1 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | N-[(1S)-2-hydroxy-1-(4-methoxybenzyl)ethyl]-acetamide | 6.9 g | OC[C@H](CC1=CC=C(C=C1)OC)NC(C)=O | C12H17NO3
reactant | heptane | 21 ml | CCCCCCC | C7H16
solvent | methyl tert-butyl ether | 14 ml | C(C)(C)(C)OC | C5H12O
product | (S)-2-acetylamino-3-(4-methoxy-phenyl)propyl trifluoroacetate | 8.2 g | FC(C(=O)OC[C@H](CC1=CC=C(C=C1)OC)NC(C)=O)(F)F | C14H16F3NO4
